US03984421
A. 1-[2-(2-Aminophenyl)ethyl]piperidine
Platinum oxide catalyst (1.0 g) is added to a solution of 11,12-dihydropyrido[2,1-b][1,3]benzodiazepine (20.0 g) in methanol (550 ml). Hydrogen gas (about 50 psig) is added and hydrogen uptake is completed in about 1 and 2 hours. The catalyst is filtered off, and the filtrate is concentrated to yield 22.0 g of material that crystallizes spontaneously, melting point 36°-38° C. Recrystallization from 150 ml of pentane yields 16.0 g of the title compound, melting point 39°-41° C.

reactant | 11,12-dihydropyrido[2,1-b][1,3]benzodiazepine | 20.0 g | C1=CC=CC2=C1CCN1C(=N2)C=CC=C1 | C13H12N2
reactant | Hydrogen | [H][H] | H2
catalyst | Platinum oxide | 1.0 g | [Pt]=O
solvent | methanol | 550 ml | CO | CH4O
product | 1-[2-(2-Aminophenyl)ethyl]piperidine | 22.0 g | NC1=C(C=CC=C1)CCN1CCCCC1 | C13H20N2
